US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-cyano-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
Prepared from 4-amino-N-[1-(1H-benzimidazol-5-ylmethyl)-2-(4-aminocarbonyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide by reacting with phosphorusoxychloride at ambient temperature.

reactant | 4-amino-N-[1-(1H-benzimidazol-5-ylmethyl)-2-(4-aminocarbonyl-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)C(=O)N)CC1=CC2=C(NC=N2)C=C1)Cl | C22H24Cl2N6O4S
reactant | phosphorusoxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-cyano-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)C#N)CC1=CC2=C(NC=N2)C=C1)Cl | C22H22Cl2N6O3S
